US04801593
5-Chloro-2-(2-chloroethyl)benzyl chloride (8 g), was dissolved in chloroform (50 ml), then aniline (2.79 g,) and triethylamine (8.01 g,) were added to the solution. The mixture was refluxed for 18 hr. then cooled and washed with 2M sodium hydroxide solution (2×100 ml). The chloroform layer was dried (magnesium sulphate) and evaporated in vacuo. The residue was distilled in vacuo to afford 7-chloro-2-phenyl-1,2,3,4-tetrahydroisoquinoline (1.35 g), b.pt. 170°-180°/0.6-0.8 mmHg) characterised by its nmr spectrum.

reactant | 5-Chloro-2-(2-chloroethyl)benzyl chloride | 8 g | ClC=1C=CC(=C(CCl)C1)CCCl | C9H9Cl3
reactant | aniline | 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 8.01 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.35 g | ClC1=CC=C2CCN(CC2=C1)C1=CC=CC=C1 | C15H14ClN
